US05332807
Preparation of (S)-3-t-Butyldimethylsilyloxybutanal
To a 50 ml round bottom flask was introduced 200 mg (0.86 mmol) of methyl (S)-3-t-butyldimethylsilyloxybutanoate, to which was added 2.5 ml dry CH2Cl2. The reaction was stirred in a dry ice/acetone bath, and 1.72 ml (2 eq.) of 1M diisobutylaluminum hydride in toluene was added dropwise. After stirring for 1 hour at -78° C., the reaction was quenched with 2 ml of MeOH and warmed to room temperature. The reaction was diluted with 25 ml of CH2Cl2 and 8 ml saturated aq. potassium sodium tartrate was added. The organic layer was separated and dried over MgSO4 and the solvent was removed under reduced pressure. Thin layer chromatography using 10% ethyl acetate in hexane showed complete and clean conversion to a lower Rf spot. This afforded 170 mg (98%) of the product, (S)-3-t-butyldimethylsilyloxybutanal, which was used without purification to avoid racemization.

reactant | methyl (S)-3-t-butyldimethylsilyloxybutanoate | 0.86 mmol, 200 mg | [Si](C)(C)(C(C)(C)C)O[C@H](CC(=O)OC)C | C11H24O3Si
reactant | CH2Cl2 | 2.5 ml | C(Cl)Cl | CH2Cl2
reactant | diisobutylaluminum hydride | 1M, 1.72 ml, 2 eq. | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (S)-3-t-Butyldimethylsilyloxybutanal | [Si](C)(C)(C(C)(C)C)O[C@H](CC=O)C | C10H22O2Si
